US04801705
(C) N-(3,4-Dihydroxyphenyl)hydrazinecarboxamide, hydrochloride
A solution of 5.03 g (15.85 mmol) of 2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazinecarboxylic acid, phenylmethyl ester in 250 ml of methanol containing 2.64 ml (31.70 mmol) of hydrochloric acid was hydrogenated in the presence of 0.5 g of 10% palladium on charcoal for 5 minutes. The catalyst was filtered off and the solvent was distilled off in vacuo to leave a solid which was stirred with a few ml of dry ether; yield after drying in vacuo: 3.36 g; melting point 170°-180° C., dec.

reactant | 2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazinecarboxylic acid, phenylmethyl ester | 15.85 mmol, 5.03 g | OC=1C=C(C=CC1O)NC(=O)NNC(=O)OCC1=CC=CC=C1 | C15H15N3O5
reactant | methanol | 31.70 mmol, 250 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | ether | ml | CCOCC | C4H10O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | N-(3,4-Dihydroxyphenyl)hydrazinecarboxamide, hydrochloride | Cl.OC=1C=C(C=CC1O)NC(=O)NN | InChI=1S/C7H9N3O3.ClH/c8-10-7(13)9-4-1-2-5(11)6(12)3-4;/h1-3,11-12H,8H2,(H2,9,10,13);1H
